US08623889B2
Step 3: N-(7-(5-fluoro-4-(hydroxymethyl)-2-methylphenyl)isoquinolin-3-yl)cyclopropanecarboxamide
Diisobutylaluminum hydride (1.0 mol/L) in THF (1.1 mL, 1.06 mmol) was added dropwise to a solution of methyl 4-[3-(cyclopropanecarbonylamino)-7-isoquinolyl]-2-fluoro-5-methyl-benzoate (100 mg, 0.26 mmol) in THF (1 mL) cooled at −15° C. The reaction mixture warmed to room temperature. After 1 hour, the reaction mixture was quenched with saturated aqueous ammonium chloride, diluted with ethyl acetate (50 mL) and washed with 1.0M citric acid solution in water (20 mL). The organic layer was separated, dried over sodium sulfate, filtered and concentrated in vacuo to provide a residue that was purified by reverse phase HPLC (5-85% acetonitrile in water w/0.1% NH4OH, 14 minutes). Desired fractions were combined and evaporated in vacuo to afford the title compound as a white solid (52 mg, 56%). 1H NMR (400 MHz, DMSO) δ 10.90 (s, 1H), 9.17 (s, 1H), 8.49 (s, 1H), 8.02 (s, 1H), 7.92 (d, J=8.6 Hz, 1H), 7.69 (dd, J=8.5, 1.6 Hz, 1H), 7.42 (d, J=7.7 Hz, 1H), 7.11 (d, J=10.7 Hz, 1H), 5.26 (s, 1H), 4.58 (s, 2H), 2.26 (s, 3H), 2.13-2.03 (m, 1H), 0.92-0.77 (m, 4H). LCMS (Method E): RT=4.595 min, M+H+=351.2.

reactant | Diisobutylaluminum hydride | 1.0 mol/L | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl 4-[3-(cyclopropanecarbonylamino)-7-isoquinolyl]-2-fluoro-5-methyl-benzoate | 0.26 mmol, 100 mg | C1(CC1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C1=CC(=C(C(=O)OC)C=C1C)F | C22H19FN2O3
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1.06 mmol, 1.1 mL | C1CCOC1 | C4H8O
product | N-(7-(5-fluoro-4-(hydroxymethyl)-2-methylphenyl)isoquinolin-3-yl)cyclopropanecarboxamide | 52 mg, 56% | FC=1C(=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)C)CO | C21H19FN2O2
